US04393075
By condensing 1,4-dimethoxy-2-methyl-3-(4-iodobutyl)naphthalene (3.84 g, 10 mmole) with 1-(2-tetrahydropyranyloxy)-2,7-octadiyne (2.10 g, 10 mmole) in accordance with the procedure of the above Reference Example 46, there was produced 1,4-dimethoxy-2-methyl-3-(12-hydroxy-5,10-dodecadiynyl)naphthalene (2.78 g, 73.5%, oily product). 1,4-Dimethoxy-2-methyl-3-(4-iodobutyl)naphthalene [δ1.5 to 2.2(4H), 2.40(3H), 2.82(2H), 3.23(2H), 3.84(3H), 3.87 (3H), 7.3 to 7.5(2H), 7.8 to 8.1(2H)] as utilized in this Reference Example was produced from 1,4-dimethoxy-2-methyl-3-(4-hydroxybutyl)naphthalene [oily substance, NMR (CDCl3), δ1.5 to 1.8(5H), 2.39(3H), 2.81(2H), 3.67(2H), 3.84(3H), 3.87(3H), 7.3 to 7.5(2H), 7.9 to 8.1(2H)] in accordance with the procedure described in Japanese Patent Application No. 49433/'80.

reactant | 1,4-dimethoxy-2-methyl-3-(4-iodobutyl)naphthalene | 10 mmole, 3.84 g | COC1=C(C(=C(C2=CC=CC=C12)OC)CCCCI)C | C17H21IO2
reactant | 1-(2-tetrahydropyranyloxy)-2,7-octadiyne | 10 mmole, 2.10 g | O1C(CCCC1)OCC#CCCCC#C | C13H18O2
product | 1,4-dimethoxy-2-methyl-3-(12-hydroxy-5,10-dodecadiynyl)naphthalene | 2.78 g, 73.5% | COC1=C(C(=C(C2=CC=CC=C12)OC)CCCCC#CCCCC#CCO)C | C25H30O3
